US04582821
Boc-TyrCHN2 (0.40 g, 1.32 mmoles) was dissolved in 20 mL of tetrahydrofuran, and the resulting solution was cooled to about -10°. Anhydrous HBr: ether (2.3M, 0.58 mL, 1.3 mmoles) was added, and after about 5 minutes, solvent was evaporated, leaving a residue. The residue was dissolved in ethyl acetate, and the resulting solution was washed with water and saturated aqueous sodium chloride. The solution was then dried over anhydrous sodium sulfate and ethyl acetate was evaporated, yielding an oil. The oil was applied to a 2 cm column containing 10 g of silica gel, and the column eluted with chloroform. Eluate solvent was evaporated, and the remaining residue was triturated with hexane to yield crystalline Boc-TyrCH2Br (0.22 g, mp 109.5°-111°).

reactant | Boc-TyrCHN2 | 1.32 mmoles, 0.40 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)C=[N+]=[N-])C(=O)OC(C)(C)C | C15H19N3O4
reactant | HBr | Br | BrH
reactant | ether | 1.3 mmoles, 2.3M, 0.58 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-TyrCH2Br | 0.22 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)CBr)C(=O)OC(C)(C)C | C15H20BrNO4
